US04725616
K1. 7-acetylindoline
To a solution of 47.35 g. (0.5 mole) of boron tribromide in 300 ml. of toluene at 0° C. was added dropwise a solution of 50 g. (0.42 mole) of indoline and 22.39 g. (0.546 mole) of acetonitrile in 200 ml. of toluene. After stirring for 10 minutes 67.2 g. (0.5 mole) of aluminum chloride was added in portions. The resulting reaction mixture was heated to reflux for 66 hours, cooled to 5° C. and treated with 80 ml. of water and 330 ml. of 2N hydrochloric acid. The resulting mixture was heated to reflux for 2.5 hours, cooled and filtered. The filtrate was set aside and the solids suspended in 500 ml. of water and treated with 2N sodium hydroxide solution until basic. The basic mixture was extracted (2×200 ml.) with methylene chloride and the organic phase separated, dried and concentrated to a solid, 17.2 g. The filtrate which was set aside was made basic with 4N aqueous sodium hydroxide and extracted with methylene chloride. The organic phase was separated, dried and concentrated to a solid, 21.8 g. The combined solids were recrystallized from hexane, 30 g., m.p. 83°-85° C.

reactant | boron tribromide | 0.5 mole | B(Br)(Br)Br | BBr3
reactant | indoline | 0.42 mole | N1CCC2=CC=CC=C12 | C8H9N
reactant | acetonitrile | 0.546 mole | C(C)#N | C2H3N
reactant | aluminum chloride | 0.5 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-acetylindoline | C(C)(=O)C=1C=CC=C2CCNC12 | C10H11NO
